US08530470B2
DIPEA (0.046 mL, 0.26 mmol) was added to a suspension of 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (60 mg, 0.13 mmol) in DMF (1 mL) followed by TSTU (43.5 mg, 0.14 mmol) at room temperature under nitrogen and stirred overnight. Dimethylamine (2N in THF) (0.131 mL, 0.26 mmol) was then added and the mixture was stirred for another hour. The reaction mixture was purified by preparative HPLC. The fractions were evaporated to dryness, the residue was taken up in a minimum of DCM, diluted with petroleum ether, stirred for 3 h, collected by filtration and dried to afford 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (43 mg, 68%) as a white solid.

reactant | DIPEA | 0.26 mmol, 0.046 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.13 mmol, 60 mg | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C24H22F2N2O5
reactant | TSTU | 0.14 mmol, 43.5 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | Dimethylamine | 0.26 mmol, 2N, 0.131 mL | CNC | C2H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 43 mg, 68% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C26H27F2N3O4
